US05101048
Preparation of 3-cyanophenyl 2,3,4-tri-O-acetyl-1,5-dithio-β-D-xylopyranoside (Example 5a)
If the procedure described in Preparation IV is followed starting from 10.3 g (74.1.10-3 mol) of 3-mercaptobenzonitrile, 28.94 g (81.5.10-3 mol) of 2,3,4-tri-O-acetyl-5-thio-α-D-xylopyranosyl bromide and 6.05 g (74.3.10-3 mol) of zinc oxide (ZnO), 9.6 g (yield: 31%) of the expected product are obtained.

reactant | 3-mercaptobenzonitrile | 10.3 g | SC=1C=C(C#N)C=CC1 | C7H5NS
reactant | 2,3,4-tri-O-acetyl-5-thio-α-D-xylopyranosyl bromide | 28.94 g | C(C)(=O)O[C@H]1[C@H](SC[C@H]([C@@H]1OC(C)=O)OC(C)=O)Br | C11H15BrO6S
catalyst | zinc oxide | 6.05 g | [O-2].[Zn+2]
product | 3-cyanophenyl 2,3,4-tri-O-acetyl-1,5-dithio-β-D-xylopyranoside | 9.6 g, yield: 31% | C(C)(=O)O[C@H]1[C@H](SC2=CC(=CC=C2)C#N)SC[C@H]([C@@H]1OC(C)=O)OC(C)=O | C18H19NO6S2
